US07834190B2
Production of (2S,3R)-3-propyl-2-oxiranecarboxylic acid
Ethyl (2R,3R)-2-chloro-3-hydroxyhexanoate (5.0 g, 22 mmol) and ethanol (15 ml) were mixed, and the mixture was cooled to 5° C. To the mixture, 20% sodium ethoxide/ethanol solution (8.3 g, 24 mmol) was gradually added. The mixture was stirred at room temperature for 1 hour. The precipitated inorganic salt was separated by filtration. Potassium hydroxide (1.24 g, 24 mmol) was added to the filtrate, and the mixture was stirred at room temperature for 14 hours. The solvent was evaporated away under reduced pressure, and water (15 ml) was added. The pH was adjusted to 1.8 with concentrated hydrochloric acid. The mixture was extracted with ethyl acetate (20 ml). The solvent was evaporated away under reduced pressure to obtain the title compound (2.33 g, yield: 65%).

reactant | Ethyl (2R,3R)-2-chloro-3-hydroxyhexanoate | 22 mmol, 5.0 g | Cl[C@@H](C(=O)OCC)[C@@H](CCC)O | C8H15ClO3
reactant | sodium ethoxide ethanol | 24 mmol, 8.3 g | [O-]CC.[Na+].C(C)O
reactant | Potassium hydroxide | 24 mmol, 1.24 g | [OH-].[K+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | (2S,3R)-3-propyl-2-oxiranecarboxylic acid | 2.33 g, yield: 65% | C(CC)[C@@H]1[C@H](O1)C(=O)O | C6H10O3
